US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-3-methanesulfonylamino-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acidoctylamide
4-(4-{2-[((2S)-3-{4-(Benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]ethyl}anilino)-N-octyl-1-piperidinecarboxamide (0.15 g, 0.207 mmol) was dissolved in ethanol (70 mL) and 10% palladium on carbon (0.043 g) added. The solution was shaken in a Parr apparatus at 50 psi hydrogen atmosphere for 16 hours, filtered through a Celite pad and the solvent removed in vacuo. The residue was purified by flash chromatography on silica gel Merck-60 (eluant: 10:1 going to 5:1 chloroform-methanol containing 2% triethylamine) to give the title compound (0.052 g, 0.08 mmol).

reactant | 4-(4-{2-[((2S)-3-{4-(Benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]ethyl}anilino)-N-octyl-1-piperidinecarboxamide | 0.207 mmol, 0.15 g | C(C1=CC=CC=C1)OC1=C(C=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCCCCCCCC)C=C2)O)C=C1)NS(=O)(=O)C | C39H57N5O6S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 70 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.043 g | [Pd] | Pd
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-3-methanesulfonylamino-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acidoctylamide | 0.08 mmol, 0.052 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C32H51N5O6S
